US04406688
A 500 ml. three-necked flat-bottomed flask equipped with a reflux condenser, a thermometer and a Teflon agitator inside was charged with 205 g (1.0 mole) of 2,4-dichloro-3-methylbenzoic acid and 300 g (2.5 moles) of thionyl chloride. With stirring, they were reacted at 80° C. for 2 hours. The reaction mixture was cooled to room temperature, and the excess of thionyl chloride was distilled off by a rotary evaporator. The residue was dried under reduced pressure to give crude 2,4-dichloro-3-methylbenzoyl chloride as yellow crystals containing a small amount of a yellowish brown liquid. This product was distilled under reduced pressure to recover a fraction having a boiling point of 125° to 128° C. at 6 mmHg which was the desired product having a high purity. The amount of 2,4-dichloro-3-methylbenzoyl chloride obtained was 176.2 g (yield 79 mole%). The product had a melting point of 43.2° to 47.2° C. The structure of the 2,4-dichloro-3-methylbenzoyl chloride was determined by infrared absorption spectroscopy, mass spectroscopy, NMR spectroscopy and elemental analysis.

reactant | 2,4-dichloro-3-methylbenzoic acid | 1.0 mole, 205 g | ClC1=C(C(=O)O)C=CC(=C1C)Cl | C8H6Cl2O2
reactant | thionyl chloride | 2.5 moles, 300 g | S(=O)(Cl)Cl | Cl2OS
product | 2,4-dichloro-3-methylbenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1C)Cl | C8H5Cl3O
